US07214665B2
Preparation 32: Piperidine-1,4-dicarboxylic acid mono-tert-butyl ester
To a solution of piperidine-4-carboxylic acid (10 g, 77.5 mmol) and potassium carbonate (21.4 g, 155 mmol) in 150 mL of water was prepared. A solution of di-tert-butyl dicarbonate (16.9 g, 77.5 mmol) in 40 mL of THF was added dropwise via addition funnel at 0° C. The reaction was allowed to warm to room temperature gradually over 30 minutes and stirred for an additional 4 hours. The THF was removed under reduced pressure and the aqueous phase extracted with 50 mL of ether. The aqueous phase was then adjusted to pH 2 with 10% HCl and extracted with EtOAc, 4×50 mL. The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to yield 17.2 g (97%) of JR3183 as a white solid. Rf=0.2 (35% EtOAc/Hexanes stained w/vanillin). 1H NMR (CDCl3) δ 11.83 (s, 1H), 3.98 (d, J=11.8 Hz, 2H), 2.83 (t, J=11.8, 2H), 2.46 (m, 1H), 1.88 (d, J=12.9 hz, 2H), 1.2 (m, 2H), 1.42 (s, 9H). 13C NMR (CDCl3) δ 180.0, 154.8, 79.8, 42.9, 40.8, 28.3, 27.7. APCI m/z (rel intensity) M−228.2 (100).

reactant | piperidine-4-carboxylic acid | 77.5 mmol, 10 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | potassium carbonate | 155 mmol, 21.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 77.5 mmol, 16.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
solvent | water | 150 mL | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
